* File: DFRRX1.pex.netlist.pex
* Created: Tue Jan 31 10:38:11 2017
* Program "Calibre xRC"
* Version "v2015.4_33.23"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFRRX1%D_VDD 1 4 8 12 16 20 24 27 32 38 73 74 75 76 77 78 79 80
c83 80 0 0.219983f
c84 79 0 0.187129f
c85 78 0 0.168377f
c86 77 0 0.174974f
c87 76 0 0.188274f
c88 75 0 0.15678f
c89 74 0 0.175782f
c90 73 0 0.16191f
c91 64 0 0.0701213f
c92 62 0 0.0779126f
c93 60 0 0.0701213f
c94 58 0 0.0701213f
c95 50 0 0.0701213f
c96 38 0 0.355279f
c97 32 0 0.596966f
c98 24 0 0.565047f
c99 20 0 0.289913f
c100 16 0 0.341395f
c101 12 0 0.52268f
c102 8 0 0.28925f
c103 4 0 0.423898f
c104 1 0 0.54765f
r105 63 80 0.203056
r106 63 64 0.0120155
r107 61 79 0.13175
r108 61 62 0.00935391
r109 59 78 0.17
r110 59 60 0.0120155
r111 57 77 0.17
r112 57 58 0.0120155
r113 54 76 0.17
r114 51 75 0.17
r115 49 74 0.17
r116 49 50 0.0120155
r117 46 73 0.17
r118 42 64 0.0329425
r119 39 62 0.0359928
r120 38 64 0.0329425
r121 33 60 0.0329425
r122 32 62 0.0359928
r123 25 58 0.0329425
r124 25 27 0.1445
r125 24 60 0.0329425
r126 20 58 0.0329425
r127 13 50 0.0329425
r128 8 50 0.0329425
r129 1 54 0.0120155
r130 1 16 0.0329425
r131 1 21 0.0329425
r132 1 51 0.0120155
r133 1 12 0.0329425
r134 1 17 0.0329425
r135 1 46 0.0120155
r136 1 4 0.0329425
r137 1 9 0.0329425
r138 1 42 0.0255
r139 1 38 0.17
r140 1 39 0.1275
r141 1 32 0.1955
r142 1 33 0.12325
r143 1 24 0.07225
r144 1 27 0.0255
r145 1 20 0.1615
r146 1 21 0.102
r147 1 16 0.2295
r148 1 17 0.0595
r149 1 12 0.272
r150 1 13 0.1785
r151 1 8 0.153
r152 1 9 0.102
r153 1 4 0.2295
.ends

.subckt PM_DFRRX1%nCLK 2 7 10 11 12 14 17 19 23 25 26 29 31 32 35 42 47 48 49 51
+ 52 53 63 70 72 77 78 79 82 87 88 89 92 94 98
c211 98 0 0.296055f
c212 94 0 0.0710553f
c213 89 0 0.0447326f
c214 88 0 0.154373f
c215 87 0 0.0280896f
c216 82 0 0.0101249f
c217 79 0 0.0490957f
c218 78 0 0.216942f
c219 77 0 0.0163474f
c220 72 0 0.0125974f
c221 70 0 0.158915f
c222 63 0 0.100732f
c223 53 0 0.128778f
c224 52 0 0.017896f
c225 51 0 0.235154f
c226 49 0 0.0548835f
c227 48 0 0.0506656f
c228 47 0 0.103577f
c229 42 0 0.161874f
c230 35 0 0.449571f
c231 32 0 0.259835f
c232 31 0 0.696613f
c233 29 0 0.415054f
c234 26 0 0.223623f
c235 25 0 1.42409f
c236 23 0 0.499669f
c237 19 0 0.148412f
c238 17 0 0.355025f
c239 12 0 0.157774f
c240 11 0 0.955863f
c241 10 0 0.0769196f
c242 7 0 0.211223f
c243 2 0 0.101786f
r244 88 108 15.2843
r245 87 89 0.0519666
r246 87 88 7
r247 85 89 0.325833
r248 82 85 0.0519666
r249 82 83 7
r250 78 101 15.2778
r251 77 79 0.0519666
r252 77 78 7
r253 75 79 0.255
r254 72 75 0.0519666
r255 72 73 7
r256 70 94 15.2843
r257 69 70 7
r258 67 69 0.0192308
r259 66 98 27.7778
r260 65 66 7
r261 63 65 0.0175137
r262 62 63 0.14011
r263 53 63 0.0130406
r264 52 69 0.0520915
r265 52 53 0.410833
r266 51 92 0.0563764
r267 50 62 0.0130406
r268 50 51 0.396667
r269 48 67 0.0209436
r270 48 49 0.184167
r271 47 49 0.0474919
r272 47 61 0.205417
r273 40 42 29.1667
r274 37 39 33.3333
r275 33 35 131.25
r276 32 83 28.3491
r277 31 33 13.9682
r278 31 32 225
r279 29 108 108.333
r280 26 73 15.3605
r281 25 83 23.097
r282 25 26 527.083
r283 21 101 6.3741
r284 21 23 141.667
r285 20 45 7.94286
r286 19 73 32.6019
r287 19 20 47.9167
r288 15 42 1.46822
r289 15 17 87.5
r290 12 39 12.5
r291 12 14 108.333
r292 11 45 53.6062
r293 11 14 62.5
r294 10 40 1.46822
r295 9 98 6.3741
r296 9 10 25
r297 5 39 1.46822
r298 5 7 37.5
r299 3 37 1.46822
r300 3 94 25
r301 2 61 0.0519666
.ends

.subckt PM_DFRRX1%D_GND 1 7 8 9 10 11 27 30 34 37 40 50 72
c71 50 0 0.842044f
c72 41 0 0.0701213f
c73 40 0 0.308082f
c74 38 0 0.0701213f
c75 37 0 1.15089f
c76 34 0 0.106826f
c77 31 0 0.0701213f
c78 30 0 0.683619f
c79 28 0 0.0701213f
c80 27 0 0.322283f
c81 11 0 0.17573f
c82 10 0 0.204774f
c83 9 0 0.48241f
c84 8 0 0.0778179f
c85 7 0 0.142503f
c86 1 0 0.395402f
r87 55 67 0.0418891
r88 50 67 0.0418891
r89 40 41 0.0329425
r90 39 41 0.0329425
r91 37 38 0.0329425
r92 36 38 0.0329425
r93 30 31 0.0329425
r94 29 31 0.0329425
r95 27 28 0.0329425
r96 26 28 0.0329425
r97 22 41 0.0120155
r98 18 38 0.0120155
r99 16 31 0.0120155
r100 16 34 0.103889
r101 12 28 0.0120155
r102 11 22 0.146389
r103 10 18 0.146389
r104 9 72 0.0677914
r105 8 34 0.0392853
r106 7 12 0.146389
r107 1 72 0.00173824
r108 1 67 0.00173824
r109 1 39 0.07225
r110 1 40 0.12325
r111 1 36 0.14875
r112 1 37 0.18275
r113 1 55 0.20825
r114 1 50 0.25075
r115 1 29 0.18275
r116 1 30 0.14875
r117 1 26 0.17425
r118 1 27 0.15725
.ends

.subckt PM_DFRRX1%CLK 2 3 5 11 13 17 19 23 25 27 29 31 33 37 40 43 44 46 48 51
+ 55 56 60 62 64 67 69 76 77 81
c195 81 0 0.0856416f
c196 77 0 0.134457f
c197 76 0 0.625461f
c198 67 0 0.152114f
c199 64 0 0.0464926f
c200 62 0 0.0370759f
c201 60 0 0.0223841f
c202 56 0 0.194896f
c203 55 0 0.0211798f
c204 51 0 0.0478115f
c205 48 0 0.178178f
c206 46 0 0.0235474f
c207 44 0 0.0533363f
c208 43 0 0.0449498f
c209 40 0 0.0742405f
c210 37 0 0.0437516f
c211 33 0 0.0114861f
c212 31 0 0.054486f
c213 29 0 0.196727f
c214 27 0 0.501898f
c215 25 0 0.0844285f
c216 23 0 0.665648f
c217 19 0 0.432376f
c218 17 0 0.267474f
c219 13 0 0.946469f
c220 11 0 0.189798f
c221 5 0 0.495617f
c222 3 0 0.397714f
r223 69 81 0.0533676
r224 67 79 15.2843
r225 66 67 7
r226 64 66 0.029755
r227 60 62 0.0519666
r228 60 61 7
r229 55 58 0.0519666
r230 55 56 7
r231 52 77 15.2843
r232 52 76 15.2843
r233 51 53 0.0520833
r234 51 52 7
r235 47 73 28.0782
r236 46 48 0.0519666
r237 46 47 7
r238 38 64 0.0196845
r239 38 62 0.255
r240 37 53 0.0176935
r241 37 58 0.255
r242 35 43 0.0218537
r243 35 48 0.524167
r244 33 81 0.0205746
r245 33 44 0.085
r246 31 44 0.0691159
r247 30 43 0.0236313
r248 30 31 0.102315
r249 29 43 0.0236313
r250 28 40 0.0164797
r251 28 29 0.779167
r252 27 61 12.5
r253 26 61 76.3889
r254 25 56 20.8333
r255 21 23 183.333
r256 20 27 10
r257 19 21 13.9682
r258 19 20 125
r259 17 79 68.75
r260 13 26 40.7725
r261 13 77 241.667
r262 9 25 14.7074
r263 9 11 37.5
r264 8 73 9.85875
r265 8 76 237.5
r266 3 47 15.6271
r267 3 5 141.667
r268 2 40 0.0697601
.ends

.subckt PM_DFRRX1%nMQI 3 4 5 7 10 13 14 15 16 17 19 21 24 28 32 33 38 39 43 46
+ 52 53 54 58 62 66
c133 66 0 0.055218f
c134 62 0 0.0390145f
c135 58 0 0.193135f
c136 54 0 0.164609f
c137 53 0 0.080384f
c138 52 0 0.0809237f
c139 46 0 0.150919f
c140 43 0 0.126975f
c141 39 0 0.02559f
c142 38 0 0.0188435f
c143 33 0 0.0745355f
c144 32 0 0.0487506f
c145 28 0 0.175949f
c146 24 0 0.10869f
c147 21 0 0.125689f
c148 19 0 0.0350611f
c149 17 0 0.0184242f
c150 16 0 0.0943744f
c151 15 0 0.0161244f
c152 14 0 0.0131677f
c153 13 0 0.0293619f
c154 10 0 0.365712f
c155 5 0 0.232774f
c156 3 0 0.0854633f
r157 53 66 0.0566888
r158 52 62 0.0566888
r159 49 58 10.355
r160 48 49 7
r161 44 54 5.55556
r162 43 45 0.00462963
r163 43 44 7
r164 33 48 0.0229635
r165 32 46 0.0539847
r166 32 33 0.0559211
r167 30 45 0.0224762
r168 30 46 0.729583
r169 29 39 0.0359928
r170 28 48 0.0277476
r171 28 29 0.347083
r172 26 39 0.00935391
r173 26 66 0.120417
r174 25 38 0.00935391
r175 24 39 0.0359928
r176 24 25 0.623333
r177 22 38 0.0359928
r178 22 62 0.120417
r179 21 38 0.0359928
r180 20 21 0.432083
r181 19 37 0.17
r182 16 20 0.0474919
r183 16 17 0.672917
r184 14 19 0.0474919
r185 14 15 0.0991667
r186 13 17 0.0474919
r187 12 15 0.0474919
r188 12 13 0.2975
r189 8 54 6.3741
r190 8 10 87.5
r191 5 58 5.62117
r192 5 7 45.8333
r193 4 43 0.138889
r194 3 37 0.0519666
.ends

.subckt PM_DFRRX1%noxref_7 4 5 6 8 9 10
c38 10 0 0.0212919f
c39 9 0 0.0747858f
c40 8 0 0.0176313f
c41 5 0 0.209029f
c42 4 0 0.0841024f
r43 9 10 0.283333
r44 8 13 0.0142585
r45 7 10 0.0474919
r46 7 8 0.113333
r47 5 6 0.226731
r48 5 9 0.0569423
r49 4 13 0.119
.ends

.subckt PM_DFRRX1%MQI 2 3 5 7 11 12 13 16 19 23 27 33 35 37 38 41 42 43 45 46 47
+ 49 51 52 55 57 58 59 62 65 67 68 72 75 76 80 88 94
c191 94 0 0.238206f
c192 88 0 0.210139f
c193 80 0 0.119829f
c194 76 0 0.152766f
c195 75 0 0.0225682f
c196 72 0 0.0218061f
c197 68 0 0.162683f
c198 67 0 0.130651f
c199 65 0 0.0149329f
c200 62 0 0.107061f
c201 59 0 0.0764253f
c202 58 0 0.152966f
c203 57 0 0.0189841f
c204 55 0 0.204014f
c205 52 0 0.0802404f
c206 51 0 0.0202122f
c207 49 0 0.0668793f
c208 47 0 0.0106666f
c209 46 0 0.047187f
c210 45 0 0.0154432f
c211 43 0 0.0112554f
c212 42 0 0.15412f
c213 41 0 0.0207842f
c214 38 0 0.105078f
c215 37 0 0.0399018f
c216 35 0 0.165229f
c217 33 0 0.0565739f
c218 27 0 0.0752913f
c219 23 0 0.149753f
c220 19 0 0.268887f
c221 13 0 0.0755559f
c222 12 0 0.45636f
c223 11 0 0.253031f
c224 7 0 0.218786f
c225 3 0 0.207416f
r226 80 100 0.0758929
r227 76 96 15.2843
r228 75 78 0.0519666
r229 75 76 7
r230 70 72 0.06375
r231 68 94 15.2843
r232 67 69 0.0130903
r233 67 68 7
r234 61 62 0.0578589
r235 58 83 15.2843
r236 57 59 0.0519666
r237 57 58 7
r238 55 84 12.5
r239 54 55 7
r240 52 54 0.125503
r241 51 72 0.00499195
r242 51 78 0.155833
r243 49 67 0.147718
r244 48 70 0.00499195
r245 48 49 0.283333
r246 46 69 0.0248844
r247 46 47 0.14875
r248 44 47 0.0474919
r249 44 45 0.10625
r250 42 45 0.0445897
r251 42 43 0.290417
r252 41 43 0.0474919
r253 40 41 0.1275
r254 39 65 0.00935391
r255 38 40 0.0474919
r256 38 39 0.304583
r257 37 100 0.018871
r258 36 65 0.0359928
r259 36 37 0.0920833
r260 35 65 0.0359928
r261 34 62 0.0172931
r262 34 35 0.800417
r263 33 61 0.0172931
r264 32 33 0.240833
r265 30 88 12.5
r266 29 30 7
r267 27 32 0.0500053
r268 27 29 0.0991667
r269 25 52 0.0139852
r270 25 59 0.425
r271 21 23 29.1667
r272 19 96 68.75
r273 16 94 45.8333
r274 12 88 6.3741
r275 12 13 162.5
r276 9 84 6.3741
r277 9 11 37.5
r278 8 13 13.9682
r279 8 11 62.5
r280 7 23 1.46822
r281 7 83 75
r282 3 21 1.46822
r283 3 5 41.6667
r284 2 62 0.052599
.ends

.subckt PM_DFRRX1%noxref_10 3 4 5 7 10
c18 10 0 0.111867f
c19 7 0 0.0981254f
c20 5 0 0.189891f
r21 6 7 0.0161702
r22 5 10 0.0164797
r23 5 6 0.623333
r24 4 10 0.0697601
r25 3 7 0.0756997
.ends

.subckt PM_DFRRX1%nSQI 3 4 7 11 13 17 20 21 23 24 27 31 32 34 35 38 39 40 44 47
+ 48 52 53 55 60 62 66 67 68 78 84
c142 84 0 0.256812f
c143 78 0 0.166205f
c144 68 0 0.183329f
c145 66 0 0.0656927f
c146 62 0 0.139922f
c147 60 0 0.0543668f
c148 55 0 0.125962f
c149 53 0 0.184512f
c150 52 0 0.16178f
c151 48 0 0.0158691f
c152 47 0 0.112897f
c153 44 0 0.0982278f
c154 40 0 0.0492702f
c155 39 0 0.100481f
c156 38 0 0.185769f
c157 35 0 0.0270685f
c158 34 0 0.145448f
c159 32 0 0.0121686f
c160 31 0 0.0734354f
c161 27 0 0.142369f
c162 24 0 0.0512656f
c163 21 0 0.231621f
c164 20 0 0.447161f
c165 17 0 0.588035f
c166 13 0 0.755862f
c167 11 0 0.232963f
c168 7 0 0.400939f
r169 66 84 0.0519666
r170 61 78 15.2843
r171 60 63 0.0519666
r172 60 62 0.0519666
r173 60 61 7
r174 58 68 6.94444
r175 57 58 7
r176 55 67 0.103889
r177 55 57 0.0212522
r178 53 74 8.33333
r179 52 54 0.00989907
r180 52 53 7
r181 47 48 0.0692532
r182 44 63 0.17
r183 41 54 0.0363981
r184 41 62 0.2975
r185 39 44 0.0474919
r186 39 40 0.0991667
r187 38 57 0.028753
r188 37 40 0.0474919
r189 37 38 0.368333
r190 35 48 0.1275
r191 34 47 0.5525
r192 31 32 0.17
r193 29 32 0.0474919
r194 29 84 0.91375
r195 25 27 18.75
r196 21 27 1.46822
r197 21 23 41.6667
r198 20 25 1.46822
r199 19 24 10.5861
r200 19 20 152.083
r201 15 24 10.5861
r202 15 17 162.5
r203 13 24 2.75115
r204 13 78 233.333
r205 9 74 6.3741
r206 9 11 37.5
r207 5 68 6.3741
r208 5 7 95.8333
r209 4 52 0.0989907
r210 4 35 0.0418268
r211 3 34 0.0538398
r212 3 31 0.0874632
.ends

.subckt PM_DFRRX1%SQI 2 5 9 11 13 17 21 26 28 29 30 31 32 34 36 38 40 41 42 46
+ 51 58 63 68 78 81
c125 81 0 0.16559f
c126 78 0 0.15964f
c127 68 0 0.157875f
c128 63 0 0.0408434f
c129 58 0 0.112582f
c130 51 0 0.144061f
c131 46 0 0.0241031f
c132 42 0 0.0660653f
c133 41 0 0.190806f
c134 40 0 0.040367f
c135 38 0 0.0865491f
c136 36 0 0.098186f
c137 34 0 0.0714141f
c138 32 0 0.0350964f
c139 31 0 0.0634408f
c140 30 0 0.00732344f
c141 29 0 0.189839f
c142 28 0 0.0623169f
c143 26 0 0.0452271f
c144 21 0 0.486913f
c145 17 0 0.399583f
c146 13 0 0.253423f
c147 11 0 0.160411f
c148 9 0 0.271382f
c149 5 0 0.302106f
c150 2 0 0.0945802f
r151 68 85 0.0230978
r152 68 82 0.161685
r153 64 78 15.2843
r154 63 66 0.0519666
r155 63 64 7
r156 61 81 15.2843
r157 60 61 7
r158 58 60 0.0171833
r159 57 58 0.114555
r160 51 74 15.2843
r161 50 51 7
r162 48 50 0.0407674
r163 44 46 0.0708333
r164 41 69 8.33333
r165 40 43 0.0519666
r166 40 42 0.0519666
r167 40 41 7
r168 38 58 0.0138203
r169 38 66 0.34
r170 36 85 0.0134881
r171 35 57 0.0138203
r172 35 36 0.198333
r173 33 82 0.0134881
r174 33 34 0.255
r175 32 50 0.0526911
r176 31 55 0.0216719
r177 31 32 0.255
r178 29 34 0.0474919
r179 29 30 0.6375
r180 28 46 0.00499195
r181 27 48 0.0185799
r182 27 28 0.2975
r183 26 30 0.0474919
r184 26 43 0.34
r185 23 44 0.00499195
r186 23 42 0.198333
r187 19 21 131.25
r188 15 17 100
r189 13 19 13.9682
r190 13 81 58.3333
r191 11 15 13.9682
r192 11 78 31.25
r193 9 74 68.75
r194 3 69 6.3741
r195 3 5 75
r196 2 55 0.0377778
.ends

.subckt PM_DFRRX1%QN 2 5 11 12 14 15 18 21
c45 21 0 0.0742057f
c46 18 0 0.0889607f
c47 15 0 0.0542751f
c48 14 0 0.0173256f
c49 12 0 0.042336f
c50 11 0 0.0827391f
c51 5 0 0.151265f
r52 18 21 0.0516466
r53 14 16 0.061091
r54 14 15 0.0327577
r55 12 21 0.151786
r56 11 12 0.0625421
r57 11 16 0.2975
r58 5 15 0.261071
r59 2 5 0.141321
.ends

.subckt PM_DFRRX1%Q 2 9 13
c12 13 0 0.48056f
c13 9 0 0.119565f
c14 2 0 0.369461f
r15 11 13 0.462778
r16 9 11 0.0408015
r17 9 10 0.0340015
r18 2 10 0.358889
.ends

.subckt PM_DFRRX1%ICLK 4 7 9 11 13 16 19 22 25
c41 25 0 0.307141f
c42 22 0 0.166967f
c43 19 0 0.0476156f
c44 16 0 0.225431f
c45 13 0 0.0943637f
c46 9 0 0.230938f
c47 7 0 0.210963f
c48 4 0 0.46004f
r49 22 26 15.219
r50 22 25 15.219
r51 19 22 7
r52 14 16 47.9167
r53 13 25 102.083
r54 12 13 18.7188
r55 9 16 1.46822
r56 9 11 41.6667
r57 7 12 37.5
r58 4 14 1.46822
r59 4 26 152.083
.ends

.subckt PM_DFRRX1%D 2 3 5 6 7 9 12 15 21
c44 21 0 0.241845f
c45 15 0 0.0280335f
c46 12 0 0.30593f
c47 9 0 0.302749f
c48 7 0 0.0684734f
c49 6 0 0.286711f
c50 3 0 0.200296f
c51 2 0 0.175827f
r52 21 22 11.274
r53 18 21 11.274
r54 15 18 7
r55 10 22 6.20035
r56 10 12 77.0833
r57 9 21 6.20035
r58 8 9 106.25
r59 6 8 13.9682
r60 6 7 68.75
r61 3 5 25
r62 2 7 13.9682
r63 1 3 13.9682
r64 1 2 62.5
.ends

.subckt PM_DFRRX1%RN 1 3 5 8 13 16 17 19 20 22 23 24 25 26 29 31 32 36 38 41 45
+ 48 50 55 57 60 68 69
c139 69 0 0.134886f
c140 68 0 0.136783f
c141 60 0 0.265927f
c142 57 0 0.0602267f
c143 55 0 0.0455089f
c144 50 0 0.049934f
c145 48 0 0.0176624f
c146 45 0 0.0494888f
c147 41 0 0.178552f
c148 38 0 0.0945695f
c149 36 0 0.0629972f
c150 32 0 0.0179115f
c151 31 0 0.096082f
c152 29 0 0.170187f
c153 26 0 0.112114f
c154 25 0 0.260048f
c155 24 0 0.332663f
c156 23 0 0.240228f
c157 20 0 0.210888f
c158 17 0 0.217383f
c159 16 0 0.237454f
c160 13 0 0.391585f
c161 5 0 0.0925436f
c162 1 0 0.31124f
r163 60 74 25.7576
r164 59 60 7
r165 57 59 0.0817308
r166 55 56 0.0407088
r167 54 72 15.2843
r168 54 69 4.16667
r169 54 55 7
r170 49 68 15.2843
r171 49 65 4.16667
r172 48 50 0.0519666
r173 48 49 7
r174 43 45 0.134583
r175 41 61 6.94444
r176 40 41 7
r177 38 56 0.0277168
r178 37 57 0.0158582
r179 37 38 0.460417
r180 36 45 0.00499195
r181 35 36 0.48875
r182 33 43 0.00499195
r183 33 50 0.255
r184 32 40 0.0519666
r185 31 35 0.0474919
r186 31 32 0.410833
r187 27 29 33.3333
r188 25 26 16.6389
r189 25 68 87.5
r190 23 24 16.6389
r191 20 74 5.33506
r192 20 22 41.6667
r193 17 29 1.46822
r194 17 19 41.6667
r195 16 27 1.46822
r196 16 72 75
r197 13 69 6.3741
r198 13 26 137.5
r199 9 65 6.3741
r200 9 23 75
r201 8 24 41.6667
r202 4 61 6.3741
r203 4 5 29.1667
r204 1 5 13.9682
r205 1 3 41.6667
.ends

